* hand netlist for sizing; ports match the macro: code[7:0] enable clk_out VPWR VGND
.param LU=8u WU=0.15u
.param WPS=1.0u LPS=0.5u WNS=0.5u LNS=0.5u NGP0=24 WP0F=4.0u
.param WPI=0.5u WNI=0.3u LI=0.13u

.subckt stg in out vbp vbn VPWR VGND
XMPS p vbp VPWR VPWR sg13_lv_pmos w={WPS} l={LPS}
XMP  out in p VPWR sg13_lv_pmos w={WPI} l={LI}
XMN  out in n VGND sg13_lv_nmos w={WNI} l={LI}
XMNS n vbn VGND VGND sg13_lv_nmos w={WNS} l={LNS}
.ends

.subckt tt_analog_ring code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR VGND
XD0 vbp code[0] VGND VGND sg13_lv_nmos w={WU*1}   l={LU} ng=1
XD1 vbp code[1] VGND VGND sg13_lv_nmos w={WU*2}   l={LU} ng=2
XD2 vbp code[2] VGND VGND sg13_lv_nmos w={WU*4}   l={LU} ng=4
XD3 vbp code[3] VGND VGND sg13_lv_nmos w={WU*8}   l={LU} ng=8
XD4 vbp code[4] VGND VGND sg13_lv_nmos w={WU*16}  l={LU} ng=16
XD5 vbp code[5] VGND VGND sg13_lv_nmos w={WU*32}  l={LU} ng=32
XD6 vbp code[6] VGND VGND sg13_lv_nmos w={WU*64}  l={LU} ng=64
XD7 vbp code[7] VGND VGND sg13_lv_nmos w={WU*128} l={LU} ng=128
XDON vbp VPWR VGND VGND sg13_lv_nmos w={WU} l={LU} ng=1
XMP0 vbp vbp VPWR VPWR sg13_lv_pmos w={WP0F*NGP0} l={LPS} ng={NGP0}
XMP1 vbn vbp VPWR VPWR sg13_lv_pmos w={WPS} l={LPS} ng=1
XMN0 vbn vbn VGND VGND sg13_lv_nmos w={WNS} l={LNS} ng=1
XMPS0 p0 vbp VPWR VPWR sg13_lv_pmos w={WPS} l={LPS}
XMPA0 s0 enable p0 VPWR sg13_lv_pmos w={WPI} l={LI}
XMPB0 s0 s10 p0 VPWR sg13_lv_pmos w={WPI} l={LI}
XMNB0 s0 s10 na0 VGND sg13_lv_nmos w={WNI*2} l={LI}
XMNA0 na0 enable n0 VGND sg13_lv_nmos w={WNI*2} l={LI}
XMNS0 n0 vbn VGND VGND sg13_lv_nmos w={WNS} l={LNS}
X1  s0 s1  vbp vbn VPWR VGND stg
X2  s1 s2  vbp vbn VPWR VGND stg
X3  s2 s3  vbp vbn VPWR VGND stg
X4  s3 s4  vbp vbn VPWR VGND stg
X5  s4 s5  vbp vbn VPWR VGND stg
X6  s5 s6  vbp vbn VPWR VGND stg
X7  s6 s7  vbp vbn VPWR VGND stg
X8  s7 s8  vbp vbn VPWR VGND stg
X9  s8 s9  vbp vbn VPWR VGND stg
X10 s9 s10 vbp vbn VPWR VGND stg
XBP1 b1 s0 VPWR VPWR sg13_lv_pmos w=0.5u l=0.13u
XBN1 b1 s0 VGND VGND sg13_lv_nmos w=0.3u l=0.13u
XBP2 clk_out b1 VPWR VPWR sg13_lv_pmos w=2.0u l=0.13u
XBN2 clk_out b1 VGND VGND sg13_lv_nmos w=1.0u l=0.13u
.ends
